### PR TITLE
"add refill_unblock_check” spec update, part V

### PR DESCRIPTION
**Pull request by mktnk3**
This is the penultimate PR for the “add refill_unblock_check” spec update.

This adds `refill_unblock_check` via `if_cond_refill_unblock_check` in `send_ipc` and `receive_ipc`.
It also adds `refill_unblock_check` in `complete_signal` but directly, due to the test on `ntfn_sc`. It also adds `maybe_donate_sc` in `complete_signal`.

### CODE REVIEW

File: spec/abstract/document/VERSION [hunk 1]
```diff
@@ -0,0 +1 @@
+12.1.0-dev
```
Comment (michaelmcinerney) [inline spec/abstract/document/VERSION]: I'm not sure I've seen this before. Is this change intended?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 2]
```diff
@@ -13121,6 +13121,106 @@ lemma reply_push_not_queued[wp]:
...
+   sched_context_donate scp t
+   \<lbrace>\<lambda>rv s. heap_refs_retract (tcb_scps_of s) (sc_tcbs_of s)\<rbrace>"
+  apply (wpsimp wp: set_tcb_sched_context_valid_sched_pred update_sc_tcb_valid_sched_pred get_sc_obj_ref_wp
+              simp: sched_context_donate_def obj_at_def heap_upd_def)
+  by (auto simp: vs_all_heap_simps pred_map_simps elim!: heap_refs_retractE split: if_splits)
+
+lemma reply_remove_tcb_scps_of_retract[wp]:
+  "\<lbrace>\<lambda>s. heap_refs_retract (tcb_scps_of s) (sc_tcbs_of s)\<rbrace>
+   reply_remove caller reply
+   \<lbrace>\<lambda>rv s. heap_refs_retract (tcb_scps_of s) (sc_tcbs_of s)\<rbrace>"
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:13135]: Use invariant form

Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:13135]: (Maybe some of these were moved, in which case, just ignore any changes)

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 3]
```diff
@@ -24160,25 +24196,128 @@ lemma reply_push_cur_sc_in_release_q_imp_zero_consumed[wp]:
...
+lemma valid_release_q_not_in_release_q_update:
+  "\<lbrakk>valid_release_q s; not_in_release_q t s; tcb_at t s\<rbrakk> \<Longrightarrow>
+   valid_release_q (s\<lparr> kheap := (kheap s(t \<mapsto> TCB tcb)) \<rparr>) "
+  apply (frule (2) sorted_release_q_not_in_release_q_update[where tcb=tcb])
+  apply (clarsimp simp add: valid_release_q_def)
+   by (fastforce simp: not_in_release_q_def vs_all_heap_simps)
+
+lemma maybe_return_sc_valid_release_q[wp]:
+  "\<lbrace>valid_release_q and (\<lambda>s. tp \<notin> set (release_queue s))\<rbrace>
+    maybe_return_sc np tp
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy]: Indentation

File: proof/invariant-abstract/Ipc_AI.thy [hunk 4]
```diff
@@ -2101,6 +2101,7 @@ crunches maybe_donate_sc
   and caps_of_state[wp]: "\<lambda>s. P (caps_of_state s)"
   and interrupt_irq_node[wp]: "\<lambda>s. P (interrupt_irq_node s)"
   and typ_at[wp]: "\<lambda>s. P (typ_at T t s)"
+  and tcb_at[wp]: "tcb_at t"
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/Ipc_AI.thy:2104]: You can get this from an `abs_typ_at_lifts` (though maybe that's not quite the right name)

**Review by michaelmcinerney — APPROVED** [review]
Nicely done

File: spec/abstract/document/VERSION (hunk 1 above)
Comment (michaelmcinerney) [reply spec/abstract/document/VERSION]: I saw this removed in a following commit, so all good

File: proof/invariant-abstract/Ipc_AI.thy (hunk 4 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/Ipc_AI.thy:2104]: Or maybe it's more convenient so that a lemma is made for the subfunctions, in which case I don't mind this

**Review by corlewis — COMMENTED** [review]
Very minor, but there's a typo in the third commit message.

**Comment by corlewis** [comment]
> Very minor, but there's a typo in the third commit message.

The second last commit as well.

File: proof/refine/ARM/Ipc_R.thy [hunk 5]
```diff
@@ -4621,94 +4713,164 @@ lemma receiveIPC_corres:
...
+                      in hoare_strengthen_post[rotated])
+                       apply (clarsimp simp: sch_act_wf_weak obj_at'_def projectKOs split: option.split)
                       apply (wpsimp wp: valid_replies'_sc_asrt_lift valid_bound_obj'_lift)
-                      apply (rule_tac Q="\<lambda>_ s. sch_act_wf (ksSchedulerAction s) s"
-                             in hoare_post_imp, erule sch_act_wf_weak)
-                      apply wpsimp
                      apply (wpsimp wp: gts_st_tcb_at)
                     apply wpsimp
-                   apply (wpsimp wp: hoare_vcg_ball_lift valid_bound_obj_lift)
+                   apply_trace (wpsimp wp: hoare_vcg_ball_lift valid_bound_obj_lift)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4852]: nitpick: `apply_trace`

@lsf37 Could we add `apply_trace` to the `diag_words` list of thylint?

File: proof/refine/ARM/Ipc_R.thy [hunk 6]
```diff
@@ -5063,20 +5228,24 @@ lemma ntfn_q_refs_no_bound_refs':
...
 
 lemma completeSignal_invs':
-  "\<lbrace>invs' and tcb_at' tcb\<rbrace>
+  "\<lbrace>invs' and tcb_at' tcb and ex_nonz_cap_to' tcb\<rbrace>
    completeSignal ntfnptr tcb
    \<lbrace>\<lambda>_. invs'\<rbrace>"
   apply (simp add: completeSignal_def)
   apply (rule hoare_seq_ext[OF _ get_ntfn_sp'])
-  apply (wpsimp wp: set_ntfn_minor_invs')
+  apply (wpsimp wp:  refillUnblockCheck_invs' threadGet_wp)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:5236]: tiny nitpick: extra space

**Review by corlewis — APPROVED** [review]
Very nice!

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 2 above)
Comment (mktnk3) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:13135]: These are copied, yes, but it looks like some of them are duplicated. I will remove the other copies.

File: proof/invariant-abstract/Syscall_AI.thy [hunk 7]
```diff
@@ -1586,10 +1586,10 @@ end
 context notes if_cong[cong] begin
 
 lemma complete_signal_state_refs_of:
-  "\<lbrace>\<lambda>s. P (state_refs_of s) \<rbrace> complete_signal ntfnc t \<lbrace>\<lambda>rv s. P (state_refs_of s) \<rbrace>"
+  "complete_signal ntfnc t \<lbrace>\<lambda>s. sym_refs (state_refs_of s) \<rbrace>"
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/invariant-abstract/Syscall_AI.thy:1589]: I changed the name to `..._sym_refs`, but it turns out that this lemma is no longer used. I changed the proof to use `heap_refs_inv`. Not sure if I should keep this.
